US08304419B2
Step B: 4-chloro-N-({4-chloro-3-[(3-chloro-5-cyclopropylphenyl)oxy]-2-fluorophenyl}methyl)-1-({[2-(trimethyl silyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide
To a solution of ({4-chloro-3-[(3-chloro-5-cyclopropylphenyl)oxy]-2-fluorophenyl}methyl)amine (86 mg, 0.264 mmol), 4-chloro-1-({[2(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxylic acid (73.0 mg, 0.264 mmol) and HATU (100 mg, 0.264 mmol) in DMF (5 ml) was added diisopropylethyl amine (0.092 ml, 0.527 mmol) and the reaction mixture was stirred at rt for 45 minutes. The reaction mixture was diluted with EtOAc and washed with water. The solvent was removed and the crude material was purified via silica gel chromatography to give the desired compound which was only ˜85% pure. This was purified via reverse phase HPLC to give 4-chloro-N-({4-chloro-3-[(3-chloro-5-cyclopropylphenyl)oxy]-2-fluorophenyl}methyl)-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide (98 mg, 0.168 mmol, 64% yield).

reactant | ({4-chloro-3-[(3-chloro-5-cyclopropylphenyl)oxy]-2-fluorophenyl}methyl)amine | 0.264 mmol, 86 mg | ClC1=C(C(=C(C=C1)CN)F)OC1=CC(=CC(=C1)C1CC1)Cl | C16H14Cl2FNO
reactant | 4-chloro-1-({[2(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxylic acid | 0.264 mmol, 73.0 mg | ClC=1N=CN(C1C(=O)O)COCC[Si](C)(C)C | C10H17ClN2O3Si
reactant | HATU | 0.264 mmol, 100 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethyl amine | 0.527 mmol, 0.092 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-chloro-N-({4-chloro-3-[(3-chloro-5-cyclopropylphenyl)oxy]-2-fluorophenyl}methyl)-1-({[2-(trimethyl silyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide | ClC=1N=CN(C1C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C1CC1)Cl)F)COCC[Si](C)(C)C | C26H29Cl3FN3O3Si
